US08497264B2
A 10 ml resealable tube was charged with 5-amino-5′-fluoro-2′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate (385 mg, 0.730 mmol), 2-fluoropyridin-4-ylboronic acid (165 mg, 1.168 mmol), PdCl2(dppf)-DCM adduct (59.6 mg, 0.073 mmol), dioxane (3650 pt) and potassium carbonate (1M solution) (2190 μL, 2.190 mmol). The mixture was flushed with argon, sealed and heated at 85° C. for 1 hr. The mixture was diluted with EtOAc, organic layer was filtered through Celite and concentrated. The brown residue was purified by chromatography (10-80% DCM/MeOH/NH4OH in DCM) to afford 4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (294 mg, 85% yield) as off-white solid.

reactant | 5-amino-5′-fluoro-2′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.730 mmol, 385 mg | FC(S(=O)(=O)OC1=CC(=C2OC=3C=CC(=CC3C3(C2=C1)COCC(=N3)N)C=3C(=NC=CC3)F)F)(F)F | C22H14F5N3O5S
reactant | 2-fluoropyridin-4-ylboronic acid | 1.168 mmol, 165 mg | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | potassium carbonate | 2.190 mmol, 1M, 2190 μL | C([O-])([O-])=O.[K+].[K+]
catalyst | PdCl2(dppf) DCM | 0.073 mmol, 59.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-(2-fluoropyridin-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 294 mg, 85% yield | FC1=CC(=CC=2C3(C4=CC(=CC=C4OC12)C=1C(=NC=CC1)F)COCC(=N3)N)C3=CC(=NC=C3)F | C26H17F3N4O2
